US09403798B2
4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-methoxybenzyl)-1,3,5-triazin-2(1H)-one
4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one (294 mg, 1.08 mmol) synthesized in Reference Synthesis Example 342 and 1-(chloromethyl)-4-methoxybenzene (162 μL, 1.19 mmol) were used to obtain the title compound (346 mg, yield 82%) by synthesis in a similar manner to Reference Synthesis Example 16.

reactant | 4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | 1.08 mmol, 294 mg | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(NC=N1)=O | C14H13FN4O
reactant | 1-(chloromethyl)-4-methoxybenzene | 1.19 mmol, 162 μL | ClCC1=CC=C(C=C1)OC | C8H9ClO
product | 4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-methoxybenzyl)-1,3,5-triazin-2(1H)-one | 346 mg, yield 82% | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC1=CC=C(C=C1)OC)=O | C22H21FN4O2
